US04861769
To a solution of ethyl 2-vinyloxyimino-3,3-ethylenedioxybutyrate (syn isomer)(1.15 g) and benzyl-triethylammonium chloride (114 mg) in a mixture of chloroform (2.4 ml) and ethanol (0.05 ml) was added sodium hydroxide (2.4 ml) under ice-cooling. The mixture was stirred at the same temperature for 30 minutes, allowed to be stirred at ambient temperature for 3 hours and finally stirred at 50° C. for an hour. The mixture was poured into ice-water and extracted with diethyl ether. The extract was washed with water, dried over magnesium sulfate and concentrated in vacuo to give ethyl 2-(2,2-dichlorocyclopropyloxyimino)-3,3-ethylenedioxybutyrate (syn isomer)(1.41 g) as an oil.

reactant | ethyl 2-vinyloxyimino-3,3-ethylenedioxybutyrate | 1.15 g | C(=C)ON=C(C(=O)OCC)C1(C)OCCO1 | C10H15NO5
reactant | sodium hydroxide | 2.4 ml | [OH-].[Na+]
reactant | chloroform | 2.4 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | benzyl-triethylammonium chloride | 114 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | ethanol | 0.05 ml | C(C)O | C2H6O
product | ethyl 2-(2,2-dichlorocyclopropyloxyimino)-3,3-ethylenedioxybutyrate | 1.41 g | ClC1(C(C1)ON=C(C(=O)OCC)C1(C)OCCO1)Cl | C11H15Cl2NO5
